US07199120B2
A solution of 4-(2-fluoro-4-pyridinyl)-3-butyn-2-ol (1.4 g, 8.5 mmol), aminopyridinium iodide (2.2 g, 9.8 mmol), 1,8-diazobicyclo[5.4.0]undec-7-ene (1.9 mL, 12.7 mmol), and acetonitrile (20 mL) were allowed to stir for 12–16 hours at room temperature. When judged to be complete, the mixture was partitioned between ethyl acetate and water, the organics were washed with brine, dried over magnesium sulfate, filtered and suspended onto silica gel. The crude material was purified by flash chromatography (1:1 hexanes:ethyl acetate) to provide 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanol (1.0 g, 460%) as a beige solid. 1H NMR (DMSO-d6): δ 8.79 (d, 1H), 8.30 (d, 1H), 7.87 (d, 1H), 7.67 (d, 1H), 7.50 (s, 1H), 7.41 (m, 1H), 7.04 (m, 1H), 5.57 (m, 1H), 5.03 (m, 1H), 1.56 (d, 3H).

reactant | 4-(2-fluoro-4-pyridinyl)-3-butyn-2-ol | 8.5 mmol, 1.4 g | FC1=NC=CC(=C1)C#CC(C)O | C9H8FNO
reactant | aminopyridinium iodide | 9.8 mmol, 2.2 g | [I-].N[N+]1=CC=CC=C1
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanol | 1.0 g, 460% | FC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)C(C)O | C14H12FN3O
